US05905149
N-{2-[3-(8-hydroxyquinol-5-ylmethylen)-2-oxindol-1-yl] acetyl}alanine methyl ester
To a solution of N-{2-[3-(8-benzyloxyquinol-5-ylmethylen)-2-oxindol-1-yl]acetyl}alanine methyl ester (45 mg, 0.09 mmol) in trifluoroacetic acid (5 ml) was added trifluoromethanesulfonic acid (0.1 ml) and the mixture was stirred at 0-5° C. for 0.5 h. Then dichloromethane was added, the mixture neutralized with 5% NaHCO3 and the organic layer concentrated under vacuum to give 30 mg of title compound (77% yield).

reactant | N-{2-[3-(8-benzyloxyquinol-5-ylmethylen)-2-oxindol-1-yl]acetyl}alanine methyl ester | 0.09 mmol, 45 mg | COC([C@@H](NC(CN1C(C(C2=CC=CC=C12)=CC1=C2C=CC=NC2=C(C=C1)OCC1=CC=CC=C1)=O)=O)C)=O | C31H27N3O5
reactant | trifluoromethanesulfonic acid | 0.1 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-{2-[3-(8-hydroxyquinol-5-ylmethylen)-2-oxindol-1-yl] acetyl}alanine methyl ester | 30 mg, 77% yield | COC([C@@H](NC(CN1C(C(C2=CC=CC=C12)=CC1=C2C=CC=NC2=C(C=C1)O)=O)=O)C)=O | C24H21N3O5
